US07427612B2
(a) 5-Chlorosulfonyl-2,3-difluoro-benzoic acid
To 2,3-difluoro-benzoic acid (3 g) was added to a solution of chlorosulfonic acid and the reaction mixture was stirred for 2 hours at room temperature. After such time, the reaction mixture was poured onto ice. The resulting solid precipitate was then filtered off and dried in vacuo to yield the title compound as a light grey solid (4.8 g, mp=109-114° C., MS (EI): 256.0 (M+) and was used directly in the next step without any further purification.

reactant | 2,3-difluoro-benzoic acid | 3 g | FC1=C(C(=O)O)C=CC=C1F | C7H4F2O2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 5-Chlorosulfonyl-2,3-difluoro-benzoic acid | ClS(=O)(=O)C=1C=C(C(=C(C(=O)O)C1)F)F | C7H3ClF2O4S
